US04107307
6-Isobutyl-8-isopropyl-imidazo[1,5-d]-as-triazin-4(3H)-one
The general procedure of Example 81 is repeated but replacing the 3-[(2-tert-butyl-5-methyl-4-imidazolyl)-methylene]carbazic acid ethyl ester employed in that example with 3-[(2-isobutyl-5-isopropyl-4-imidazolyl)methylene]carbazic acid ethyl ester.

reactant | 3-[(2-tert-butyl-5-methyl-4-imidazolyl)-methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C)C(C)(C)C)=O | C12H20N4O2
reactant | 3-[(2-isobutyl-5-isopropyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C(C)C)CC(C)C)=O | C14H24N4O2
product | 6-Isobutyl-8-isopropyl-imidazo[1,5-d]-as-triazin-4(3H)-one | C(C(C)C)C1=NC(=C2N1C(NN=C2)=O)C(C)C | C12H18N4O
